US07504513B2
To a solution of 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester (40 mg, 0.1 mmol), 4-methylphenylboronic acid (20.4 mg, 0.15 mmol) in ethylene glycol dimethyl ether (1 ml) was added Na2CO3 (2M, 100 μL, 0.2 mmol) and [1,1′-bis(diphenylphosphino)-ferrocene]dichloro palladium(II) (4 mg, 0.005 mmol). The mixture was heated to 100° C. for 3 hrs. The solvent was evaporated and 2 ml water was added. It was then extracted with 2×3 ml EtOAc. The combined organics were concentrated in vacuo. To this crude was added THF (0.5 ml), water (0.5 ml), methanol (0.2 ml) and NaOH (20 mg, 0.05 mmol). The mixture was heated to 60° C. for 3 hrs. The solvents were evaporated and the crude was purified by prep-HPLC to afford 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-p-tolyl-thiazole-5-carboxylic acid (21.1 mg, 53%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.57 (br.s., 1H); 8.82 (s, 1 H); 7.83 (m, 3 H); 7.39 (s, 1 H); 7.31 (d, 2 H); 3.86 (s, 3 H); 3.85(s, 3 H), 2.39 (s, 3H). MS m/z 396 (M+1).

reactant | 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester | 0.1 mmol, 40 mg | COC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)Br | C14H12BrN3O4S
reactant | 4-methylphenylboronic acid | 0.15 mmol, 20.4 mg | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | Na2CO3 | 0.2 mmol, 2M, 100 μL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaOH | 0.05 mmol, 20 mg | [OH-].[Na+]
solvent | ethylene glycol dimethyl ether | 1 ml | COCCOC | C4H10O2
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloro palladium(II) | 0.005 mmol, 4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | methanol | 0.2 ml | CO | CH4O
solvent | water | 0.5 ml | O | H2O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-p-tolyl-thiazole-5-carboxylic acid | 21.1 mg, 53% | COC1=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CC=C(C=C2)C)C(=O)O)C=C1OC | C20H17N3O4S
